Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"hot prostate"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Seen with phone interpreter. ___ w HTN who presents for
evaluation of his prostate. He reports that he has had 3 weeks 
of
"pain and hotness" in L groin, with some swelling at L groin. He
reports he saw MDs in ___ recently who told him he needed "a
surgery". At the end of our visit, he provides a biopsy result 
in
___ and ___ that shows he has ___ 9 
adenocarcinoma
of prostate and PSA 24. 
He says the pain is L groin, non-radiating, worse with
cough/moving, and feels that when urinating he feels "rough
inside". Also with some urinary urgency and dribbling, as well 
as
3x/night nocturia, and about a week of urinary incontinence
(mild). No rectal pain, fevers, chills, nausea, vomiting,
diarrhea, chest pain, shortness of breath, rash. He has mild R
knee pain which is his baseline (he thinks it's from gout).
Sexually active with women only, never any STIs. Has not taken
any abx for the above symptoms. Has been taking PRN naproxen.

On questioning, endorses 10lbs weight loss which he thinks is
related to his pre-DM diet, though it's not clear the timeline 
of
the weight loss and dietary changes. No night sweats, melena. Is
an active smoker. Last colonoscopy many years ago (>10). Mother
with colon cancer. No bone pain. No drugs. No cough/hemoptysis. 

In ED, AVSS. Found to have tender/boggy prostate, guaiac neg. CT
was prelim read c/w prostatitis. Given cipro and 1L NS. 

 
Past Medical History:
HTN
presumed gout in knee
pre DM
? CKD (previous cr 1.5 at ___ several years ago)
 
Social History:
___
Family History:
FH: mother with colon ca, no heart dz, no prostate ca or other
issues
 
Physical Exam:
ADMISSION PE
Constitutional: VS reviewed, NAD
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate
CV: RRR no mrg
Resp: CTAB
GI: sntnd, NABS
GU: no foley, no testicular pain or swelling, + pain in L
inguinal area, positive LAD in B inguinal, normal phallus, neg
CVAT; repeat rectal deferred given had one in ED
MSK: no obvious synovitis
Ext: wwp, neg edema in BLEs
Skin: no rash grossly visible
Neuro: A&Ox3, EOMI, PERRL, ___ BUE/BLE, no facial droop
Psych: normal affect, pleasant

DISCHARGE PE:
Constitutional: VS reviewed, NAD
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate
CV: RRR no mrg
Resp: CTAB
GI: sntnd, NABS
GU: no foley, no testicular pain or swelling, very mild pain in 
L
inguinal area, positive LAD in B inguinal, normal phallus, neg
CVAT; repeat rectal deferred given had one in ED
MSK: no obvious synovitis
Ext: wwp, neg edema in BLEs
Skin: no rash grossly visible
Neuro: A&Ox3, EOMI, PERRL, ___ BUE/BLE, no facial droop
Psych: normal affect, pleasant
 
Pertinent Results:
ADMISSION LABS:

___ 11:09PM BLOOD WBC-10.7* RBC-4.63 Hgb-14.0 Hct-42.0 
MCV-91 MCH-30.2 MCHC-33.3 RDW-12.7 RDWSD-41.9 Plt ___
___ 11:09PM BLOOD Glucose-119* UreaN-26* Creat-1.4* Na-141 
K-4.4 Cl-102 HCO3-26 AnGap-13
___ 11:19PM BLOOD Lactate-1.7
___ 11:09PM URINE Blood-TR* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:09PM URINE RBC-5* WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-0
___ 04:50AM URINE CT-NEG NG-NEG

Radiology:
CT AP:
IMPRESSION:
 
 
1. No CT findings to explain abdominal pain and no drainable 
fluid
collections.  Specifically, no drainable fluid collections in 
the prostate. 
Please note that prostatitis is a clinical diagnosis and CT has 
very limited
value in the evaluation of the prostate.
2. Hypodense right renal lesion is indeterminate.  An ultrasound 
was performed
in attempt to characterize this lesion, however nonemergent MRI 
which could be
done in ___ months is recommended.

RENAL U/S
IMPRESSION:
 
 
1. The 2 cm right superior renal cystic lesion demonstrates 
calcification and
internal debris.  Although this could represent a hemorrhagic 
cyst with wall
calcification, further evaluation with renal MRI with contrast 
is recommended
to confirm this finding.
2. No hydronephrosis, or stones in either kidney.
 
RECOMMENDATION(S):  Contrast-enhanced renal MRI.

CXR
IMPRESSION: 
 
No previous images.  Cardiac silhouette is within normal limits 
and there is
mild tortuosity of the descending thoracic aorta.  No pneumonia, 
vascular
congestion, or pleural effusion.
No evidence of sclerotic metastasis.

Micro
UCx mixed flora
BCx pending x2, NGTD
U gonococcus/chlamydia PCR neg
U AFB: pending

Discharge labs:
___ 06:50AM BLOOD WBC-7.8 RBC-4.70 Hgb-13.9 Hct-42.0 MCV-89 
MCH-29.6 MCHC-33.1 RDW-12.2 RDWSD-40.4 Plt ___
___ 06:50AM BLOOD Glucose-113* UreaN-23* Creat-1.4* Na-139 
K-4.9 Cl-100 HCO3-27 AnGap-12
___ 06:50AM BLOOD Calcium-9.2 Phos-3.0 Mg-2.___ w HTN, ? CKD, recent prostate ca dx who p/w symptomsof 
prostatitis.

# c/f acute prostatitis: possible dx given prostatic tenderness, 
mildly positive UA. Timing is potentially c/w this. Discussed 
with urology who agrees with empiric treatment. UCx only mixed 
flora. BCx NGTD. U AFB is pending. U GC/CT negative. Started on 
ciprofloxacin 500mg po BID x4 weeks (___). 

# ___ on ? CKD: previous cr 1.4 at OSH and similar on admit, but 
trended down to 1.2 after IVF. Suspect some component of NSAID 
related ___. Held Naproxen, gave 1L NS and held furosemide, 
discharge cr 1.4. 

# weight loss: potentially related to prostatitis versus 
prostate cancer versus other. BCx NGTD, UCx neg, UAFB pending. 
CXR unremarkable. Will need outpatient age appropriate cancer 
screening (low dose chest CT, screening ___. 

# prostate cancer: ___ 9, as noted on biopsy from ___ 
(patient has in hand) no evidence of mets on imaging, normal Ca, 
normal alk phos. Discussed with urology who recommends 
outpatient mgmt. (see them ___ weeks post discharge).

# HTN: home bisoprolol was held as his home meds were expired 
and bisoprolol was non-formulary. He was continued on home 
losartan, nifedipine.

# renal cyst: follow up MRI in ___ mos

TRANSTIONAL ISSUES:
# Contacts/HCP/Surrogate and Communication: daughter ___,
___
- please ensure patient attends follow up with urology as 
scheduled for prostate cancer and prostatitis
- please follow up final BCx, urine AFB
- please consider cancer screening with low dose chest CT and 
colonoscopy given weight loss; consider further workup as 
indicated
- please pursue MRI of renal cyst within ___ months
- consider resuming furosemide and/or bisoprolol based on volume 
status, renal function, BP at upcoming visit

For billing purposes only: >30 minutes spent on patient care and 
coordination on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 
2. Glucosamine (glucosamine sulfate) unknown  oral DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. bisoprolol fumarate 2.5 mg oral DAILY 
5. Naproxen 500 mg PO Q12H:PRN Pain - Moderate 
6. Furosemide 40 mg PO DAILY 
7. NIFEdipine (Extended Release) 30 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*54 Tablet Refills:*0 
3.  Fish Oil (Omega 3) 1000 mg PO DAILY  
4.  Glucosamine (glucosamine sulfate) 1 tab oral DAILY  
5.  Losartan Potassium 50 mg PO DAILY  
6.  NIFEdipine (Extended Release) 30 mg PO BID  
7. HELD- Furosemide 40 mg PO DAILY  This medication was held. Do 
not restart Furosemide until instructed by your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
prostatitis 
prostate cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure caring for you. You were admitted for pain in 
your prostate. We found you to have an infection in your 
prostate ("prostatitis") for which we are giving you 4 weeks of 
antibiotics. As you know, you were recently diagnosed with 
prostate cancer in ___. You will see a urologist in the near 
future about both of these problems. 
You have pending urine tests and blood culture tests. You will 
be contacted if these are abnormal. You should also follow up 
these tests with your primary care provider. 
Given your weight loss, you will require testing to ensure no 
other problem is causing this besides your prostatitis. To rule 
out cancers, you'll need a chest CT and a colonoscopy as an 
outpatient. Please discuss these with your primary care 
provider. 
You also have a likely cyst on your kidney which will need a 
kidney MRI as an outpatient with your primary care provider. 
We are currently stopping your bisoprolol and furosemide. 
Discuss with your primary care provider ___ you should 
resume this medication. 

 
Followup Instructions:
___